US06784182B2
Preparation of 3-Cyanostyrene
To a stirred suspension of methyltriphenylphosphonium bromide (75 g, 209.71 mmol) in dry THF (750 mL) at 0° C. under nitrogen was added dropwise n-BuLi (83 mL, 2.5 M in hexanes, 207.50 mmol). The mixture was warmed to room temperature. 3-Cyanobenzaldehyde (25 g, 190.65 mmol) was added as a solid in 5 g batches, and the mixture was stirred at room temperature overnight. The reaction was quenched in water, and the solvent was removed under vacuum. The residue was dissolved in the minimal amount of THF, and triphenylphosphine oxide was precipitated using ether. The solid was filtered through diatomaceous earth, and the filtrate was concentrated. Distillation by Kugelrhor at 90° C./33 Pa (0.25 mm Hg) gave the product as a colorless oil (15.5 g, 62%).

reactant | n-BuLi | 207.50 mmol, 2.5 M, 83 mL | [Li]CCCC
reactant | 3-Cyanobenzaldehyde | 190.65 mmol, 25 g | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
catalyst | methyltriphenylphosphonium bromide | 209.71 mmol, 75 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 750 mL | C1CCOC1 | C4H8O
product | 3-Cyanostyrene | 15.5 g, 62% | C(#N)C=1C=C(C=C)C=CC1 | C9H7N
